US09193731B2
{3-[(4-Bromo-benzyl)-tert-butoxycarbonyl-amino]-propyl}-carbamic acid tert-butyl ester:
A solution of 1-bromo-4-bromomethyl-benzene (17.79 g, 71.17 mmol) in toluene (50 mL) was dropwise added to a mixture of 3-Amino-propyl)-carbamic acid tert-butyl ester (16.1 g, 92.51 mmol), triethylamine (29.6 ml, 213.5 mmol) in toluene (200 mL) over 30 min. at 80° C. The resulted mixture was heated at 80° C. for additional 2 h before cooled to 0° C. Di-tert-butyl pyrocarbonate (23.5 g, 107.80 mmol) was added at 0° C. After 2 h, the mixture was warmed to rt and stirred overnight, diluted with EtOAc (500 mL) and washed with water (300 mL), brine (300 mL). The organic solution was concentrated and purified by flash chromatography (10%-25% EtOAc in heptane) to give desired product (16.15 g, 51%) as colorless oil. 1NMR (300 MHz, CDCl3): δ 7.44 (d, J=8.4 Hz, 2H), 7.01 (br, 2H), 5.16 (br.s, 0.5H),4.62 (br.s, 0.5H), 4.34 (br, 2H), 3.40 (m, 2H), 3.10 (m, 2H), 1.65 (m, 2H), 1.43 (br.s, 18H).

reactant | 1-bromo-4-bromomethyl-benzene | 71.17 mmol, 17.79 g | BrC1=CC=C(C=C1)CBr | C7H6Br2
reactant | carbamic acid tert-butyl ester | 92.51 mmol, 16.1 g | C(C)(C)(C)OC(N)=O | C5H11NO2
reactant | triethylamine | 213.5 mmol, 29.6 ml | C(C)N(CC)CC | C6H15N
reactant | Di-tert-butyl pyrocarbonate | 107.80 mmol, 23.5 g | C(OC(C)(C)C)(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 500 mL | CCOC(=O)C | C4H8O2
product | {3-[(4-Bromo-benzyl)-tert-butoxycarbonyl-amino]-propyl}-carbamic acid tert-butyl ester | 16.15 g, 51% | C(C)(C)(C)OC(NCCCN(C(=O)OC(C)(C)C)CC1=CC=C(C=C1)Br)=O | C20H31BrN2O4
